US04831031
6-(2-(4-(1-Naphthyl)piperazinyl)ethyl)-benzimidazolone
To a 100 ml round-bottomed flask equipped with magnetic stirrer, condenser, and N2 inlet were added 2.64 g (12.4 mmol) of N-(1-naphthyl)-piperazine, 3.0 g (12.4 mmol) of 6-(2-bromoethyl)-benzimidazolone, 1.31 g (12.4 mmol) sodium carbonate, 50 ml methylisobutylketone, and a catalytic amount of sodium iodide. The reaction was refluxed for 3 days, cooled, and evaporated to a brown gum. The gum was partitioned between 50 ml water and 75 ml ethyl acetate, and the ethyl acetate layer washed with brine, dried over sodium sulfate, and evaporated, then chromatographed on silica gel. Fractions containing the product were combined and evaporated, the residue taken up in tetrahydrofuran, treated with HCl gas, and the resulting hydrochloride salt of the product filtered off to give a white solid, m.p. 260°-262° C., 716 mg (14% yield).

reactant | N-(1-naphthyl)-piperazine | 12.4 mmol, 2.64 g | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
reactant | 6-(2-bromoethyl)-benzimidazolone | 12.4 mmol, 3.0 g | BrCCC=1C=CC=2C(=NC(N2)=O)C1 | C9H7BrN2O
reactant | sodium carbonate | 12.4 mmol, 1.31 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | methylisobutylketone | 50 ml | CC(=O)CC(C)C | C6H12O
product | 6-(2-(4-(1-Naphthyl)piperazinyl)ethyl)-benzimidazolone | 14% yield | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCC=1C=CC=2C(=NC(N2)=O)C1 | C23H22N4O
